US05272147
5-[2-Ethoxy-5-(3morpholinopropylsulphonamido)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
The title compound was prepared form 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one and 3-morpholinopropylsulphonyl chloride, following the procedure of Example 41, and was obtained as brown crystals (14%), m.p. 157°-159° C. Found: C,55.42; H,6.53; N,16.01. C24H34N6O5S requires C,55.58; H,6.61; N,16.21%.

reactant | 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | NC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H21N5O2
reactant | 3-morpholinopropylsulphonyl chloride | O1CCN(CC1)CCCS(=O)(=O)Cl | C7H14ClNO3S
product | 5-[2-Ethoxy-5-(3morpholinopropylsulphonamido)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | C(C)OC1=C(C=C(C=C1)NS(=O)(=O)CCCN1CCOCC1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C24H34N6O5S
